US06342598B1
A) Octadecanoic acid 2-(2-aminoethoxy)ethyl ester hydrochloride
Stearoyl chloride (6.4 g; 21 mmol) (commercial product) was added dropwise in 5 min to a solution of 2-(2-aminoethoxy)ethanol hydrochloride (2.9 g; 20 mmol) in DMF (50 mL) at room temperature to afford a suspension. After 16 h, the suspension was diluted with acetone and the precipitated solid filtered and washed with acetone. The crude was crystallized from EtOAc; the solid was filtered, washed with EtOAc and dried under reduced pressure to give the desired compound (3.3 g; 8 mmol). Yield 40%. Acidic titer (0.1 N NaOH): 93%. K.F.: 1.06%. The 1H-NMR, 13C-NMR, MS and IR spectra were consistent with the structure.

reactant | Stearoyl chloride | 21 mmol, 6.4 g | C(CCCCCCCCCCCCCCCCC)(=O)Cl | C18H35ClO
reactant | 2-(2-aminoethoxy)ethanol hydrochloride | 20 mmol, 2.9 g | Cl.NCCOCCO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | acetone | CC(=O)C | C3H6O
product | Octadecanoic acid 2-(2-aminoethoxy)ethyl ester hydrochloride | 8 mmol, 3.3 g, Yield 40% | Cl.NCCOCCOC(CCCCCCCCCCCCCCCCC)=O | InChI=1S/C22H45NO3.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-22(24)26-21-20-25-19-18-23;/h2-21,23H2,1H3;1H
